US08703742B2
7-(3-Benzyloxy-propoxy)-6-fluoro-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol
Synthesized according to the methods of general procedure 8 in U.S. Pat. Pub. No. 20090227541 (U.S. patent application Ser. No. 12/142,692) using the following reactants and amounts: 3-(3-benzyloxy-propoxy)-4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (0.40 g, 0.966 mmol), nitromethane (0.15 mL, 2.89 mmol), NaOH (0.038 g, 0.96 mmol), THF (10 mL), water (10 mL). This generated 0.34 g (94% yield) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.83 (s, 1H), 7.32-7.02 (m, 7H), 5.78-5.75 (m, 1H), 5.28-5.23 (m, 1H), 4.60-4.56 (m, 1H), 4.42 (s, 2H), 4.37 (brs, 2H), 3.57 (brs, 2H), 1.92 (brs, 2H). 19F NMR (376 MHz, DMSO-d6 with D2O) δ (ppm): −132.3 (1F).

reactant | 3-(3-benzyloxy-propoxy)-4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 0.966 mmol, 0.40 g | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C=CC1F)B1OC(C(O1)(C)C)(C)C | C23H28BFO5
reactant | nitromethane | 2.89 mmol, 0.15 mL | [N+](=O)([O-])C | CH3NO2
reactant | NaOH | 0.96 mmol, 0.038 g | [OH-].[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 7-(3-Benzyloxy-propoxy)-6-fluoro-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol | 0.34 g, 94% yield | C(C1=CC=CC=C1)OCCCOC1=C(C=CC2=C1B(OC2C[N+](=O)[O-])O)F | C18H19BFNO6
